US06664265B2
A solution of tert-butyl 2-{2-[(3-aminoquinolin-4-yl)amino]ethoxy}ethylcarbamate (12.05 g, 34.8 mmol) in 200 mL of 1,2-dichloroethane was treated with trimethyl orthoacetate (5.50 mL, 43.2 mmol) and the reaction mixture was heated to reflux. A 100 mg portion of pyridinium hydrochloride was then added and refluxing was continued for 4 h. The reaction was then cooled and washed with water and brine. The organic portion was dried over Na2SO4 and concentrated to give an orange foam. The foam was triturated with ether and filtered to yield 10.76 g of tert-butyl 2-[2-(2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate as a tan solid.

reactant | tert-butyl 2-{2-[(3-aminoquinolin-4-yl)amino]ethoxy}ethylcarbamate | 34.8 mmol, 12.05 g | NC=1C=NC2=CC=CC=C2C1NCCOCCNC(OC(C)(C)C)=O | C18H26N4O3
reactant | trimethyl orthoacetate | 43.2 mmol, 5.50 mL | C(C)(OC)(OC)OC | C5H12O3
reactant | pyridinium hydrochloride | Cl.[NH+]1=CC=CC=C1
solvent | 1,2-dichloroethane | 200 mL | ClCCCl | C2H4Cl2
product | tert-butyl 2-[2-(2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate | 10.76 g | CC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCCNC(OC(C)(C)C)=O | C20H26N4O3
